US09145441B2
A solution of (E)-2,2-dimethyl-4-(2-{(R)-1-[methyl-((R)-2-methyl-propane-2-sulfinyl)-amino]-ethyl}-quinolin-7-yl)-but-3-enoic acid methyl ester (77 mg, 0.19 mmol) in methanol (10 mL) was treated with hydrochloric acid in 1,4-dioxane (4 M, 5 mL). After stirring at room temperature for 2 h, the volatiles were removed in vacuo. The residual solvent was removed by azeotroping with toluene (3×10 mL) to give crude (E)-2,2-dimethyl-4-[2-((R)-1-methylamino-ethyl)-quinolin-7-yl]-but-3-enoic acid methyl ester hydrochloride.

reactant | (E)-2,2-dimethyl-4-(2-{(R)-1-[methyl-((R)-2-methyl-propane-2-sulfinyl)-amino]-ethyl}-quinolin-7-yl)-but-3-enoic acid methyl ester | 0.19 mmol, 77 mg | COC(C(\C=C\C1=CC=C2C=CC(=NC2=C1)[C@@H](C)N([S@](=O)C(C)(C)C)C)(C)C)=O | C23H32N2O3S
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
solvent | 1,4-dioxane | 4 M, 5 mL | O1CCOCC1 | C4H8O2
product | (E)-2,2-dimethyl-4-[2-((R)-1-methylamino-ethyl)-quinolin-7-yl]-but-3-enoic acid methyl ester hydrochloride | Cl.COC(C(\C=C\C1=CC=C2C=CC(=NC2=C1)[C@@H](C)NC)(C)C)=O | InChI=1S/C19H24N2O2.ClH/c1-13(20-4)16-9-8-15-7-6-14(12-17(15)21-16)10-11-19(2,3)18(22)23-5;/h6-13,20H,1-5H3;1H/b11-10+;/t13-;/m1./s1
